US07268245B2
Preparation of Butylenebis(oxyethylenenitrilo)tetraacetic acid diplatinum
Butylenebis(oxyethylenenitrilo)tetraacetic acid (0.544 gm) is neutralized to pH about 9 using 1N NaOH (˜10 ml) to obtain a clear solution. This solution is then diluted to about 50 ml with water. This solution is then added dropwise (about 1 ml) to the cisplatin solution prepared above maintained at about 60° C. The entire reaction mixture is allowed to stir at this temperature (about 60° C.) for about 3 hours. The temperature is then reduced to about 50° C. and the reaction mixture is allowed to stir at this temperature for another 3 hours.

reactant | Butylenebis(oxyethylenenitrilo)tetraacetic acid | 0.544 gm | C(CCCOCCN(CC(=O)O)CC(=O)O)OCCN(CC(=O)O)CC(=O)O | C16H28N2O10
reactant | NaOH | 1N, ˜10 ml | [OH-].[Na+]
reactant | cisplatin | [NH3][Pt]([NH3])(Cl)Cl
solvent | water | O | H2O
product | Butylenebis(oxyethylenenitrilo)tetraacetic acid diplatinum | [Pt].[Pt].C(CCCOCCN(CC(=O)O)CC(=O)O)OCCN(CC(=O)O)CC(=O)O | InChI=1S/C16H28N2O10.2Pt/c19-13(20)9-17(10-14(21)22)3-7-27-5-1-2-6-28-8-4-18(11-15(23)24)12-16(25)26;;/h1-12H2,(H,19,20)(H,21,22)(H,23,24)(H,25,26);;
